US05162322
5-[4-[4-(2-methoxyphenyl)-1-piperazinyl]butyl]-3-(1-methylethyl)-2-oxazolidinone hydrochloride (1:2).
Following the procedure of Example 5, a mixture of 5-(4-chlorobutyl)-3-(1-methylethyl)-2-oxazolidinone (5.2 g, 0.0237 mol), 1-(2-methoxyphenyl)piperazine (4.56 g, 0.0237 mol), potassium carbonate (9.84 g, 0.0712 mol) and potassium iodide (1.0 g) in n-butanol (200 mL) gave an oil. The oil was dissolved in absolute ethanol and acidified with ethanolic hydrogen chloride. Addition of ether gave a solid which was collected by filtration and dried under high vacuum at 70° C. to give 7.36 g (69% yield), mp 206°-213° C.

reactant | 5-(4-chlorobutyl)-3-(1-methylethyl)-2-oxazolidinone | 0.0237 mol, 5.2 g | ClCCCCC1CN(C(O1)=O)C(C)C | C10H18ClNO2
reactant | 1-(2-methoxyphenyl)piperazine | 0.0237 mol, 4.56 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium carbonate | 0.0712 mol, 9.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | 200 mL | C(CCC)O | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 5-[4-[4-(2-methoxyphenyl)-1-piperazinyl]butyl]-3-(1-methylethyl)-2-oxazolidinone hydrochloride | 69% yield | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCCC1CN(C(O1)=O)C(C)C | InChI=1S/C21H33N3O3.ClH/c1-17(2)24-16-18(27-21(24)25)8-6-7-11-22-12-14-23(15-13-22)19-9-4-5-10-20(19)26-3;/h4-5,9-10,17-18H,6-8,11-16H2,1-3H3;1H
